US04689432
The preparation of chelators where R8 and R9 are part of a quinoline ring and W=OH begins, for example, with 2-methyl-6-methoxy-8-nitroquinoline. The methoxy group could be cleaved with BBr3 or hot HI to yield a 6-hydroxy group, which could then be protected by reaction with dimethoxymethane under acid catalysis to yield 2-methyl-6-methoxymethyloxy-8-nitroquinoline. This can be used as starting material for the synthesis outlined above for 2-methyl-6-W-8-nitroquinoline, leading to chelators with W=OCH2OCH3. Mild acid hydrolysis of this compound gives chelators with W=OH.

reactant | 2-methyl-6-methoxy-8-nitroquinoline | CC1=NC2=C(C=C(C=C2C=C1)OC)[N+](=O)[O-] | C11H10N2O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | HI | I | HI
reactant | dimethoxymethane | COCOC | C3H8O2
product | 2-methyl-6-methoxymethyloxy-8-nitroquinoline | CC1=NC2=C(C=C(C=C2C=C1)OCOC)[N+](=O)[O-] | C12H12N2O4
